Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / steri-strips
 
Attending: ___.
 
Chief Complaint:
fever, abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ was a ___ yo G5P2 ___ s/p elective TAB/D&E at 16 
weeks GA for fetal anomaly (___) with procedure c/b 
postpartum hemorrhage (1400cc), requiring OR take back, UAE, and 
transfusion of 2 units pRBCs, when she presented to the ED with 
fevers and abdominal pain. Patient stated that she was doing 
well upon discharged on POD#2, with stable vaginal bleeding, 
similar to a "light period," with her abdominal pain well 
controlled with Tylenol, ibuprofen and dilaudid. On POD#6, prior 
to presentation to the ED, she developed malaise, chills, and 
worsening abdominal pain. She also noticed discomfort with 
urination, described as a "bladder spasm" at the end of each 
void. It was noted that during her recent post-operative 
admission, a foley had been place due to urinary retention, and 
a urinary culture on ___ grew pan sensitive E. Coli. Patient 
further endorsed developing a temperature of 102 on POD#5. She 
subsequently presented to Dr. ___ office on POD#6, and was 
found to be febrile to 100.7, and was thus sent to the ED for 
further evaluation.

In the ED, the patient received anti-emetics, IV morphine and 1L 
NS. She continued to endorse abdominal pain, which was much 
improved after the pain medication. She endorsed minimal VB, 
mild lightheadness, decreased PO intake, and b/l lower back dull 
cramping. She otherwise denied N/V, diarrhea, flank pain, CP, 
SOB, palpitations, abnormal/malodorous vaginal discharge. 

Patient was admitted for abdominal pain and fever concerning for 
endometritis. 
 
Past Medical History:
OBHx: G5P2 (CSx2, TAB/D&Cx3)
GynHx:
- h/o abnl pap, s/p LEEP. most recent pap ___ nl cytology HR 
HPV
positive
- h/o fibroids
- remote h/o chlamydia approx. ___ yrs ago
- gyn surgeries: LEEP, D&C
PMH: back pain, h/o HTN previously on meds
PSH: b/l varicose vein surgery, back surgery for disc removal 
and
implantation of nerve stimulator for back pain
Meds: ibuprofen, Tylenol, dilaudid prn
All: sulfa

 
Social History:
___
Family History:
Not contributory 
 
Physical Exam:
General: NAD, comfortable
CV: RRR, normal s1 and s2, no m/r/g
Lungs: normal work of breathing, CTAB
Abdomen: soft, non-distended, tender over uterus, without 
rebound
or guarding
Extremities: no edema, no TTP, pneumoboots in place bilaterally
 
Pertinent Results:
___ 02:05PM   ___ PTT-27.0 ___
___ 02:05PM   PLT COUNT-221#
___ 02:05PM   WBC-7.4 RBC-3.16* HGB-9.5* HCT-29.1* MCV-92 
MCH-30.1 MCHC-32.6 RDW-13.0 RDWSD-43.5
___ 02:05PM   NEUTS-60.6 ___ MONOS-7.3 EOS-0.9* 
BASOS-0.4 IM ___ AbsNeut-4.48 AbsLymp-2.21 AbsMono-0.54 
AbsEos-0.07 AbsBaso-0.03
___ 02:10PM   LACTATE-1.6
___ 03:05PM URINE  RBC-<1 WBC-22* BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 03:05PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD*
 
Brief Hospital Course:
On admission, Ms. ___ was began on IV ampicillin, 
gentamicin, and clindamycin for concern for endometritis. She 
obtained lab studies that showed an absence of leukocytosis. 
Patient was otherwise hemodynamically stable. Blood cultures 
were also collected, and the patient was given oral pain 
medications, including oxycodone, ibuprofen, and Tylenol. Her 
E.Coli UTI was also covered by ampicillin. 

On HD1, Ms. ___ reported feeling well, with her abdominal 
pain much improved from admission. She was ambulating and 
tolerating sips, and remained afebrile and hemodynamically 
stable. She denied CP, SOB, N/V/F/Chills. She was subsequently 
transitioned from IV to oral doxycycline and macrobid. 

On HD2, patient continued to feel well, was tolerating a regular 
diet, and had been ambulating independently. Her pain was well 
controlled with oral medication, and had minimal nausea but no 
vomiting. She otherwise denied CP, SOB, fever or chills. Her Hct 
remained stable and the patient was discharged home in stable 
condition. 
 
Medications on Admission:
ibuprofen, Tylenol, dilaudid prn

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
3.  Doxycycline Hyclate 100 mg PO Q12H infection 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*27 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1 
5.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H UTI 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*9 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after you presented 
to the ED with abdominal pain concerning for endometritis (an 
infection in the lining of your uterus). You have recovered well 
and the team believes you are ready to be discharged home. 
Please call Dr. ___ office with any questions or concerns. 
Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___